US04041163
N-(5-Tetrazolyl)-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide
To a solution of 360 mg. of 1,1'-carbonyldiimidazole in 6 ml. of dry tetrahydrofuran at 140° C. is added dropwise 500 mg. of 3-carboxy-4-oxo-4H-pyrimido[2,1-b]benzothiazole in 6 ml. of dry dimethylformamide. After heating for 3 hrs., 186 mg. of 5-aminotetrazole is added, and the heating maintained for an additional 15 min. The reaction mixture is cooled and the precipitated product filtered. Recrystallization from dimethylformamide gives 200 mg. of the desired product, m.p. 330°-332° C.

reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 3-carboxy-4-oxo-4H-pyrimido[2,1-b]benzothiazole | C(=O)(O)C1=CN=C2SC3=C(N2C1=O)C=CC=C3 | C11H6N2O3S
reactant | 5-aminotetrazole | NC1=NN=NN1 | CH3N5
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-(5-Tetrazolyl)-4-oxo-4H-pyrimido[2,1-b]benzothiazole-3-carboxamide | N1N=NN=C1NC(=O)C1=CN=C2SC3=C(N2C1=O)C=CC=C3 | C12H7N7O2S
